US08383637B2
3-(2-Amino-6-phenoxy-4H-quinazolin-3-yl)-N-cyclohexyl-N-methyl-propionamide (Compound # 20)
A solution of 3-(2-amino-5-phenoxy-benzylamino)-N-methyl-N-phenyl-propionamide (diamine) (1.4 g, 0.0037 mol) and cyanogen bromide (0.58 g, 0.0055 mol) in 70 mL of ethanol was refluxed for 3 h. The solvent was evaporated to yield a residue, which was crystallized from EtOAc (100 mL). The resulting precipitate was dissolved in ethanol and stirred for 3 h. The resulting precipitate was collected by filtration, washed with ethanol, and dried to yield the title product, pure 3-(2-amino-6-phenoxy-4H-quinazolin-3-yl)-N-cyclohexyl-N-methyl-propionamide.

reactant | 3-(2-amino-5-phenoxy-benzylamino)-N-methyl-N-phenyl-propionamide | 0.0037 mol, 1.4 g | NC1=C(CNCCC(=O)N(C2=CC=CC=C2)C)C=C(C=C1)OC1=CC=CC=C1 | C23H25N3O2
reactant | cyanogen bromide | 0.0055 mol, 0.58 g | N#CBr | CBrN
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | 3-(2-amino-6-phenoxy-4H-quinazolin-3-yl)-N-cyclohexyl-N-methyl-propionamide | NC1=NC2=CC=C(C=C2CN1CCC(=O)N(C)C1CCCCC1)OC1=CC=CC=C1 | C24H30N4O2
